US04694017
2 Grams of 3-(1-methyloxindol-3-yl)-2-aminopropionic acid prepared in Reference Example 5 was suspended in 50 ml of 1-methyl-2-pyrrolidone, then 2.2 g of 3-(4-chlorobenzoyl)benzoxazolin-2-thione was added thereto, and the reaction mixture was stirred at a room temperature for 3 days. The reaction mixture was poured into an ice-water, and the crystals formed were collected by filtration, then the crystals were dissolved in 1N-sodium hydroxide aqueous solution, then the resulting solution was acidified by using 10%-hydrochloric acid, and the crystals formed were collected by filtration. The crystals were dried, washed with chloroform, there was obtained 1.1 g of 2-(4-chlorobenzoylamino)-3-(1-methyloxindol-3-yl)propionic acid. White powdery substance. Melting point: 115°-120° C.

reactant | 3-(1-methyloxindol-3-yl)-2-aminopropionic acid | CN1C(C(C2=CC=CC=C12)CC(C(=O)O)N)=O | C12H14N2O3
reactant | 3-(4-chlorobenzoyl)benzoxazolin-2-thione | 2.2 g | ClC1=CC=C(C(=O)N2C(OC3=C2C=CC=C3)=S)C=C1 | C14H8ClNO2S
solvent | 1-methyl-2-pyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(4-chlorobenzoylamino)-3-(1-methyloxindol-3-yl)propionic acid | 1.1 g | ClC1=CC=C(C(=O)NC(C(=O)O)CC2C(N(C3=CC=CC=C23)C)=O)C=C1 | C19H17ClN2O4
